data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,632,"CO[P:1](Cl)N(C)C.C[N+:2](C)(C)[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,70,"BrC1=CC=C2C(=C1)CCCC2=[O:1].C1COCCN1.[Cl][Ti:2]([Cl])([Cl])[Cl]|(1, 2)"
train,pmechdb_split_0,0,10050,"CC(=O)[O-:1].C[N+:2]12CCCC1[CH2:3]2.[Cl-]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,2174,"CC[C:1]([CH:2](C)[H:3])=[O:4].COC(=O)C12CC(=O)C(C)C1([O-:5])CCC2C.[H][H].[Na+]|(5, 3);((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,6163,"C1CO[C:1](=[OH+:2])OC1.[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,344,"C1=CC=C(C=[O:1])C=C1.CNC(N)=O.COC(=O)CC(=O)C1=CC=CC=C1.[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,4607,"CCO[C:1]1=[CH:2][CH:3]=[CH:4]C=C1.O=[S+:5](=O)O|((1, 2), 3);((3, 4), 5)"
train,pmechdb_split_0,0,5938,"C=C1CC(CCO[Si](C(C)C)(C(C)C)C(C)C)OC(CC(CC2OC(CCOCC3=CC=CC=C3)CCC2C)[OH+:1][B-:2](F)(F)F)C1.CC[O+](CC)[Si](C)(C)C.CC[O-]|((2, 1), 1)"
train,pmechdb_split_0,0,8195,"CC(C)(C)[C:1](=[N:2]O[Si](C)(C)C)[O:3]S(=O)(=O)C(F)(F)F.CC[NH+](CC)CC.O=S(=O)([O-])C(F)(F)F|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,9589,"C[N+:1](C)=[CH:2]Cl.C[N:3]1[CH:4]=[CH:5][C:6]2=[C:7]1CCCC2.O=P([O-])(Cl)Cl|(3, 7);((7, 6), 5);((5, 4), 2);((2, 1), 1)"
train,pmechdb_split_0,0,5417,"CC[N:1](CC)[CH:2](C)[NH+:3](C)C|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,5580,"C[C:1]([C:2]1=CC=CC=C1)([CH:3](C1=CC=CC=C1)[OH2+:4])[OH:5].O=S(=O)([O-])C1=CC=C(C(F)(F)F)C=C1|(5, 1);((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,2442,"C[CH:1]=[O+:2][Ti-]([Cl])([Cl])([Cl])[Cl]|((1, 2), 2)"
train,pmechdb_split_0,0,2853,"CO[P+:1](Cl)(Cl)[H:2].C[OH:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7046,"CCOC(=O)C(O)=C(C)[C:1](=[CH2:2])[O-:3].CCOC(=O)[C:4](OCC)=[O:5]|(3, 1);((1, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,936,"C1=CC=C(C2C3=C(C=CC=C3)[C:1](C3=CC=CC=C3)([OH2+:2])[O:3]2)C=C1.CO.O=C([O-])C(F)(F)F.[Mg+][Br]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,182,"O[P+:1](O)(O)[O:2][H:3].[OH2:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,5171,"C=CC[C+:1]1C=CC=C[C:2]1(C(C)CC1=CC=CC=C1)[H:3].O=S(=O)(O)[O-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,7441,"CCCO.CCCOC(CC([NH3+])C1=CC=CC=C1)=[O+:1][H:2].O=S(=O)([O-])O.[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8210,"O.OC1CCCCC1C[NH2:1].[Cl-].[N:2]#[O+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,367,"CO[C:1](=[CH:2]CC#N)[O-:3].[H:4][OH2+:5]|(3, 1);((1, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,9017,"C[C:1](OC(=O)C[O-:2])=[O:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,4964,"CC(=O)O[C:1](C)=[O:2].CC(C)=N[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6877,"CC(C)(CC#N)[O-:1].CC[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,7007,"CC1(C)N(CC2=CC=CC=C2)C(C)(C)C1(C(=O)O)[O-:1].[H:2][OH:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,5148,"COC(O)[O:1]C1=CC=C2C(=C1)C1=C(C)C3=C(C=CN=C3)C(C)=C1N2C.O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,7716,"C=[O+][Si-:1](C)(C)(C)[CH2:2][CH+:3]C|((1, 2), 3)"
train,pmechdb_split_0,0,2463,"C1CCC2(C1)CCCC2[OH:1].O=P(O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,1601,"CCCC1CC([S-:1])=[N+]2C(C3=CC=CC=C3)COC2(C)C1.CCCO[C:2]([CH:3](SC1=[N+]2C(C3=CC=CC=C3)COC2(C)CC(CCC)C1)[H:4])=[O:5].[Br-]|(1, 4);((4, 3), 2);((2, 5), 5)"
train,pmechdb_split_0,0,2191,"CC1(CCC(C)([NH+]2CCCC2C(=O)[O:1][H:2])[O-:3])C(=O)CCC1=O|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1311,"C[C:1](N)=[NH2+:2].C[OH:3].[Cl-]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,5761,"N#[N+:1][CH2:2][C:3]1([OH:4])CC(C2CCCCC2)CC[CH2:5]1.O.[Cl-]|(4, 3);((3, 5), 2);((2, 1), 1)"
train,pmechdb_split_0,0,580,"COC1(OC)C2C=CC1C(C1=CCC(O[Si](C)(C)C(C)(C)C)C1)([O:1][H:2])C2.[H:3][K:4]|((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,1693,"CC(=O)[O:1][H:2].[OH-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9538,"O=S(=O)(O)[O:1][H:2].OCCCC(O)=[O:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1051,"CCCCCCC1CCC(O[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C(=O)O1.CCOC(=O)N[N-:1]C(=O)OCC.O=C(C1=CC=C(CBr)C=C1)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,668,"O=C(O)C[CH2:1][O:2]S(=O)Cl.[Cl-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8466,"CO[C:1]1([O-:2])OCC[O:3]1|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,3702,"C[C+:1](C)[O:2][H:3].[OH-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,6669,"C[P:1](C)(Cl)([Mg][I])[Cl:2]|((1, 2), 2)"
train,pmechdb_split_0,0,7479,"CO[CH:1]([NH2:2])[OH2+:3].[Cl-]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,2827,"CN(CC[CH2+:1])C[CH:2]=[CH:3]C[Si](C)(C)C|((3, 2), 1)"
train,pmechdb_split_0,0,6469,"O=C(C(F)(F)F)[O-:1].O=C(N[NH+:2](C(O)C1=CC=C(Br)C=C1)[H:3])C1=CC=CC=C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,9000,"CC1(C)C[C:1]([O-:2])=[CH:3][C:4](=[O:5])C1.CC[NH+](CC)CC.C[C:6](Cl)=[O:7]|(2, 1);((1, 3), 4);((4, 5), 6);((6, 7), 7)"
train,pmechdb_split_0,0,6522,"O=C1CCC(=[O:1])N1Br.[H:2][Br:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,2923,"CC(C)(C)[O-:1].CCOC(=O)[C:2]1([H:3])CCCC(C)[C:4]1=[O:5]|(1, 3);((3, 2), 4);((4, 5), 5)"
